US07691850B2
b) 2,2,2-trifluoro-N-[(3R)-3-pyrrolidinylmethyl]acetamide
To a stirred solution of 1,1-dimethylethyl(3S)-3{[(trifluoroacetyl)amino]methyl}-1-pyrrolidinecarboxylate (2.96 g, 10.0 mmole), in CH2Cl2 (50 mL) at RT was added TFA (25 mL). After 2 h, the reaction contents were concentrated under vacuum. The remaining residue was dissolved in (CHCl3/i-PrOH, 10:1) and washed with saturated aqueous NaHCO3. The organic phase was separated and dried over Na2SO4. Concentration under vacuum afforded the title compound (1.86 g, 95%) as a yellow oil: LC-MS (ES) m/e 197 (M+H)+.

reactant | 1,1-dimethylethyl(3S)-3{[(trifluoroacetyl)amino]methyl}-1-pyrrolidinecarboxylate | 10.0 mmole, 2.96 g | FC(C(=O)NC[C@H]1CN(CC1)C(=O)OC(C)(C)C)(F)F | C12H19F3N2O3
reactant | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-[(3R)-3-pyrrolidinylmethyl]acetamide | 1.86 g, 95% | FC(C(=O)NC[C@H]1CNCC1)(F)F | C7H11F3N2O
